Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
PCN,erythromycin,codeine, hydrocodone,atropine,phenobarb,joint 
injections
 
Attending: ___.
 
Chief Complaint:
Neck swelling
 
Major Surgical or Invasive Procedure:
-Incision and drainage of left submandibular and pharyngeal 
space abscess (___)
-Coronary catheterization (___)
-PICC placement (___)

 
History of Present Illness:
___ F PMHx anxiety, GERD, HLD, and recent odtonogenic abscess 
complicated by L submandibular and lateral pharyngeal space 
abscess presenting as neck swelling and odynophagia presenting 
from ___ for surgical intervention.

Patient reported undergoing I&D of odontogenic abscess on ___ 
she was feeling okay until x2 days post-op when she noticed 
minor neck swelling. This progressed over the next few days and 
she developed odynophagia, increased swelling, stridor. She 
presented to ___ and was transferred due to concern for 
airway compromise and intervention; she was evaluated by ENT in 
the ED who saw infection/soft tissue cellulitis with epiglottic 
involvement, no airway compromise. She was taken to the OR for 
intervention by OMFS. 
 
Past Medical History:
GERD
depression
hypothyroidism
2 C-sections
TAH-BSO
cholecystectomy
appendectomy
bilateral knee replacements

 
Social History:
___
Family History:
mother with supranuclear palsy
father died of throat cancer after long time smoking
son with stroke in ___, unknown etiology

 
Physical Exam:
ADMISSION:
Vitals: T: 98.6 BP: 115/85 P: 93 R: 20 O2: 97%RA  
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear. Left lower molar 
missing, no drainage/erythema. No stridor. No drooling. Managing 
secretions.
NECK: supple, tenderness to L anterior cervical region with 
swelling, overlying erythema
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema.  
SKIN: no rashes or lesions
NEURO: A&Ox4, CN II-XII intact. Gait deferred

DISCHARGE:
VS: 98.6, 156/85, 60s, 18, 100%RA  
Gen: NAD, resting in bed 
HEENT: Sclera anicteric, MMM, oropharynx clear. Soft, non-TTP L 
mandible with incision site c/d/i
NECK: supple, no LAD, no TTP 
LUNGS: CTAB, no wheezes, rales, rhonchi  
CV: RRR, normal S1 S2, no murmurs, rubs, gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: WWP, 2+ pulses, no clubbing, cyanosis or edema. RUE w/PICC 
c/d/I.   
SKIN: multiple ecchymoses over UE b/l
NEURO: AAOx3, CN II-XII intact. Moves all extremities 
spontaneously 
 
Pertinent Results:
ADMISSION LABS:
___ 12:24PM BLOOD WBC-9.0 RBC-4.63 Hgb-14.6 Hct-41.7 MCV-90 
MCH-31.5 MCHC-35.0 RDW-13.3 RDWSD-43.6 Plt ___
___ 12:24PM BLOOD Neuts-58.6 ___ Monos-8.6 Eos-0.4* 
Baso-0.4 Im ___ AbsNeut-5.25 AbsLymp-2.85 AbsMono-0.77 
AbsEos-0.04 AbsBaso-0.04
___ 12:24PM BLOOD ___ PTT-30.5 ___
___ 12:24PM BLOOD Glucose-106* UreaN-13 Creat-0.8 Na-136 
K-5.2* Cl-100 HCO3-21* AnGap-20
___ 12:24PM BLOOD Calcium-9.1 Phos-2.9 Mg-1.8
___ 06:40PM BLOOD ___ pO2-33* pCO2-47* pH-7.37 
calTCO2-28 Base XS-0
___ 02:22AM BLOOD Lactate-1.3
___ 06:40PM BLOOD freeCa-1.11*

INTERIM LABS:
___ 02:02AM BLOOD CK-MB-9 cTropnT-0.27*
___ 07:06PM BLOOD CK-MB-32* MB Indx-10.3* cTropnT-0.68*
___ 05:42AM BLOOD CK-MB-42* MB Indx-8.6* proBNP-3610*
___ 11:19AM BLOOD CK-MB-31

IMAGING:
-Cardiac cath (___): please see report in OMR
-PICC placement (___): IMPRESSION:  Right-sided PICC line 
terminates in the low SVC. 
-TTE (___): IMPRESSION: Mild regional left ventricular 
systolic dysfunction. Findings are consistent with resolving 
takotsubo cardiomyopathy, although coronary ischemia cannot be 
excluded. 
-CXR (___): IMPRESSION: In comparison with the study of 
___, there is little change. The PICC line extends to the 
mid portion the SVC.  The cardiac silhouette is at the upper 
limits of normal in size or mildly enlarged.  However, no 
evidence of vascular congestion, pleural effusion, or acute 
focal pneumonia. 
-CTA Chest (___): IMPRESSION: 
1. No evidence of pulmonary embolism or aortic abnormality. 
2. Dilated pulmonary arteries suggestive of pulmonary artery 
hypertension. 
3. 4 mm right upper lobe pulmonary nodule 

MICRO:
-Abscess: 
GRAM STAIN (Final ___: NO POLYMORPHONUCLEAR LEUKOCYTES 
SEEN. NO MICROORGANISMS SEEN. 
WOUND CULTURE (Final ___: MIXED BACTERIAL FLORA. 
ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 
-Blood cx: NGTD

DISCHARGE LABS:
___ 06:14AM BLOOD WBC-6.1 RBC-4.06 Hgb-12.9 Hct-36.6 MCV-90 
MCH-31.8 MCHC-35.2 RDW-13.4 RDWSD-44.8 Plt ___
___ 06:14AM BLOOD ___ PTT-32.1 ___
___ 06:14AM BLOOD Glucose-110* UreaN-7 Creat-0.6 Na-139 
K-4.2 Cl-104 HCO3-31 AnGap-8
___ 06:14AM BLOOD Calcium-8.9 Phos-2.8 Mg-2.___ presenting following recent oral surgery complicated by left 
neck cellulitis s/p I&D (___) w/post-op course complicated by 
MICU stay notable for pharyngeal edema requiring IV steroids, 
hypertensive urgency requiring IV anti-hypertensives, demand 
ischemia ___ hypertension vs vasospasm s/p cardiac 
catheterization without evidence of occlusive disease, and O2 
requirement likely ___ to atelectasis.

# Oral surgery complicated by L submandibular and lateral 
pharyngeal space abscess s/p I&D of left submandibular and 
lateral pharyngeal spaces (___): patient was transferred from 
OSH due to development of neck cellulitis associated with airway 
compromise following an oral surgery procedure. She was taken to 
the OR by OMFS for I&D and drain placement n ___ and was 
transferred to the MICU following the procedure for airway 
monitoring. She was initiated on IV clindamycin/vancomycin. 
Following the procedure she became acutely hypertensive 
requiring IV medication. She was evaluated by ENT with 
fiberscope with findings notable for pharyngeal edema; she 
received decadron 10mg TID x1 day with resolution of edema on 
repeat fiberscope. Given stability, she was transferred to the 
floor. She tolerated an advanced diet. She was continued on 
peridex mouth rinse BID. She was re-evaluated by ___ and her 
drain was pulled on ___. She was transitioned to a po regimen 
of clindamycin with plan to complete x14 day course. 

#Chest pain, likely takotsubo's cardiomyopathy: patient was 
originally called out to the floor on ___ however prior to 
transfer she developed crushing substernal chest pain. She was 
started on nitro gtt and received high-dose aspirin, metoprolol, 
atorvastatin, and was started on a heparin gtt. ECG was notable 
for inferior and posterior ST-segment elevations and reciprocal 
depressions. Cardiology was consulted and the patient was sent 
from the MICU for cardiac catheterization on ___ which was 
notable for 50% occlusion of D1, no interventions. Given no 
occlusive lesions, and given clinical picture of sudden onset 
chest pain and associated septal hypokinesis on echo, this was 
consistent with takotsubo's cardiomyopathy vs vasospasm. The 
patient was transitioned to 81 mg aspirin, 80mg atorvastatin, 10 
mg Q8H nifidipine (for vasospasm) with goal SBP <140; 
beta-blockers were initially avoided given low HRs. Echo on ___ 
notable for septal hypokinesis, repeat ECG notable for TWI in 
V1-V2. Due to persistent hypertension with above regimen, she 
was transitioned to carvedilol 6.25mg BID. She was discharged on 
asa, statin, and carvedilol. 

#Hypoxia: Patient developed new O2 requirement on ___, requiring 
uptitration of NC from 2L to 4L on ___. Her lung exam was clear 
bilaterally. She underwent CXR on ___ without acute process, and 
CTA on ___ with no acute processes. Concern for atelectasis vs 
aspiration vs splinting. She used the incentive spirometer 
successfully and walked with ___. She was weaned off O2 and 
remained stable. 

#Diarrhea: during hospital course, patient developed large 
volume, watery BMs assoc with urgency. Differential inlcu 
antibiotic-induced vs c diff vs infectious. Stool cultures were 
negative for infection. 

#Orthostasis: patient c/o dizziness on ___, noted to have 
orthostatic hypotension. Thought to be ___ poor po intake. She 
received IVF boluses and her diet was advanced. She worked with 
___ and her dizziness resolved. 

#Hypertension: no history of HTN. However, post-op patient was 
noted to be hypertensive with SBPs in 200s, requiring IV 
labetalol. Due to concern for contribution of hypertension to 
MI, goal was to maintain SBP <140. She was originally started on 
nifedipine due to concern for low HR; she was transitioned to 
carvedilol 6.25mg BID with strict control. 

CHRONIC ISSUES:
===================================
#Hypothyroidism: she was continued on home levothyroxine. 

#Depression: she was continued on home Prozac. 

#GERD: she was continued on home omeprazole and reglan. 

#Sleep: her home sleep medications were held given concern for 
airway protection. 

TRANSITIONAL ISSUES:
====================================
[] plan for repeat echo in ___
[] CTA RUL 4mm pulmonary nodule; please f/u in 12mo
[] Plan for ___ntibiotics (day 14= ___
[] consider stopping omeprazole as an outpatient given risk of 
osteoporosis
# Communication: HCP: Husband- ___ both at 
___ 
# Code: Full, confirmed 
  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 75 mcg PO DAILY 
2. Fluoxetine 20 mg PO DAILY 
3. Omeprazole 20 mg PO DAILY 
4. Metoclopramide 10 mg PO TID 
5. Zolpidem Tartrate 12.5 mg PO QHS 
6. TraZODone 50 mg PO QHS 
7. Simvastatin 20 mg PO QPM 
8. clotrimazole-betamethasone ___ % topical BID 

 
Discharge Medications:
1. Fluoxetine 20 mg PO DAILY 
2. Levothyroxine Sodium 75 mcg PO DAILY 
3. Metoclopramide 10 mg PO TID 
4. Omeprazole 20 mg PO DAILY 
5. Acetaminophen 1000 mg PO Q6H:PRN pain 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every six (6) 
hours Disp #*40 Tablet Refills:*0
6. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
7. Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth qPM Disp #*30 Tablet 
Refills:*0
8. Carvedilol 6.25 mg PO BID 
RX *carvedilol 6.25 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0
9. Chlorhexidine Gluconate 0.12% Oral Rinse 15 mL ORAL QID 
RX *chlorhexidine gluconate [Peridex] 0.12 % Swish and spit out 
twice a day Refills:*0
10. clotrimazole-betamethasone ___ % topical BID 
11. TraZODone 50 mg PO QHS 
12. Zolpidem Tartrate 12.5 mg PO QHS 
13. Clindamycin 450 mg PO Q6H Duration: 10 Days 
RX *clindamycin HCl 300 mg 1.5 capsule(s) by mouth four times a 
day Disp #*54 Capsule Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
-Left submandibular and pharyngeal space abscess status-post 
incision and drainage
-Hypertension
-Myocardial infarction 

SECONDARY DIAGNOSES:
-Recent oral surgery
-Hypothyroidism
-Gastroesophageal reflux
-Depression

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ due to swelling of your neck. An 
abscess, or pocket of infection, was found which was drained by 
the Oral Surgeons. The procedure went well; drain was placed 
into the abscess and you were started on antibiotics. You should 
continue to take clindamycin 300mg four times daily, your last 
day will be ___. You should continue Peridex mouth rinse 
swish and spit twice daily and change your dressing daily. You 
should continue to take Tylenol ___ up to four times daily for 
pain; please do not exceed 4gm per day as this can be bad for 
your liver.

After your procedure you were monitored in the Intensive Care 
Unit. The procedure went well; however following the procedure 
you were found to have ongoing swelling inside your throat. You 
received intravenous steroids which helped with the throat 
swelling. In addition, your blood pressure became very high and 
you developed severe chest pain; imaging and lab work showed 
that you had a myocardial infarction, also known as a heart 
attack. You were evaluated by the Cardiologists and a procedure 
called a catheterization was performed to look closely at the 
blood vessels in your heart. You were started on medications to 
help prevent future heart attacks; you will need to continue 
taking aspirin 81mg daily, atorvastatin 80mg daily, and 
carvedilol 6.25mg twice daily. You will need to follow up 
closely with a Cardiologist. 

Thank you for letting us be a part of your care!
Your ___ Team
 
Followup Instructions:
___